US08013506B2
In one implementation, approximately 0.25 grams of Rhodamine B can be mixed in a beaker with about 10 mL of water to obtain a Rhodamine B-Water mixture. The Rhodamine B-Water mixture can then be added to about 20 grams of an orange phosphor in another beaker to obtain a phosphor mixture. The phosphor mixture can then be mixed and stirred by hand and dried at, e.g., 60 degrees Celsius, in air. After the phosphor mixture is dried, it can then be mixed with a binder, which can be made of epoxy or silicon resin.

reactant | Rhodamine B | approximately 0.25 grams | CCN(CC)C=1C=CC2=C(C1)OC3=CC(=[N+](CC)CC)C=CC3=C2C=4C=CC=CC4C(=O)C
solvent | water | about 10 mL | O | H2O
product | Rhodamine B Water | CCN(CC)C=1C=CC2=C(C1)OC3=CC(=[N+](CC)CC)C=CC3=C2C=4C=CC=CC4C(=O)C.O | InChI=1S/C29H33N2O2.H2O/c1-6-30(7-2)21-14-16-25-27(18-21)33-28-19-22(31(8-3)9-4)15-17-26(28)29(25)24-13-11-10-12-23(24)20(5)32;/h10-19H,6-9H2,1-5H3;1H2/q+1;
